US07417060B2
To a solution of methyl 4′-[2-[(tert-butoxycarbonyl)-[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-(2-thienyl)-4-bipheylcarboxylate (188 mg) in methanol (3.3 ml) was added 1N aqueous sodium hydroxide solution (1.0 ml), and the mixture was stirred at 40° C. for 3 hours. The solvent was removed by evaporation, and the aqueous solution was acidified with 1N aqueous hydrochloride solution and extracted with ethyl acetate (30 ml×2). The combined organic layers were washed with water and brine, dried over magnesium sulfate and evaporated under reduced pressure to give a benzoic acid product. To a solution of the product in ethyl acetate (1.0 ml) was added 4N hydrogen chloride in ethyl acetate (1.0 ml), and the mixture was stirred at room temperature for 12 hours. The resultant solid was collected by filtration and dried to give 4′-[2-[[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-(2-thienyl)-4-biphenylcarboxylic acid hydrochloride (139 mg).

reactant | methyl 4′-[2-[(tert-butoxycarbonyl)-[(2R)-2-hydroxy-2-phenylethyl]amino]ethyl]-3-(2-thienyl)-4-bipheylcarboxylate | 188 mg | C(C)(C)(C)OC(=O)N(CCC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)C=1SC=CC1)C[C@@H](C1=CC=CC=C1)O | C33H35NO5S
reactant | sodium hydroxide | 1N, 1.0 ml | [OH-].[Na+]
solvent | methanol | 3.3 ml | CO | CH4O
product | benzoic acid | C(C1=CC=CC=C1)(=O)O | C7H6O2
